US07790884B2
Cyclopropylamine and sodium triacetoxy borohydride were added to a 1,2-dichloromethane solution of benzyl 4-oxopiperidine-1-carboxylate to obtain benzyl 4-(cyclopropylamino)piperidine-1-carboxylate.

reactant | Cyclopropylamine | C1(CC1)N | C3H7N
reactant | sodium triacetoxy borohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzyl 4-oxopiperidine-1-carboxylate | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
product | benzyl 4-(cyclopropylamino)piperidine-1-carboxylate | C1(CC1)NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C16H22N2O2
